US08071768B2
c. 4-{7-[3-(1H-Tetrazol-5-yl)-propoxy]-quinazolin-4-yl}-piperidine-1-carboxylic acid (4-isopropoxy-phenyl)-amide
A solution of 4-{7-[3-(1H-Tetrazol-5-yl)-propoxy]-quinazolin-4-yl}-piperidine-1-carboxylic acid tert-butyl ester (6.1 mg, 14 μmol), as prepared in the previous step, in 9:1 TFA/anisole (100 μL) was stirred at 100° C. for 10 min. The solution was then concentrated. Pyridine (100 μL) and (4-isopropoxy-phenyl)-carbamic acid 4-nitro-phenyl ester (5.8 mg, 18 μmol), as prepared in Example 1a, were added, and the solution was stirred at 80° C. for 15 min. The reaction was concentrated, taken up in 1M NaH2PO4 (2 mL), and extracted with 95:5 DCM/MeOH (2×2 mL). The combined organic layers were dried (Na2SO4), concentrated, and purified by flash silica cartridge chromatography (EtOAc→acetone eluent) to provide the title compound (1.0 mg, 14%). 1H-NMR (400 MHz, 95:5 CDCl3/CD3OD) δ 9.09 (s, 1H), 8.08 (s, 1H), 7.30-7.21 (m, 4H), 6.85 (m, 2H), 4.49 (septet, 1H), 4.27 (m, 2H), 4.24 (t, 2H), 3.70 (tt, 1H), 3.19 (t, 2H), 3.12 (td, 2H), 2.40 (m, 2H), 2.17-1.92 (m, 4H), 1.32 (d, 6H). LC/MS (ESI) calcd mass 516.3, found 517.2 (MH)+.

reactant | 4-{7-[3-(1H-Tetrazol-5-yl)-propoxy]-quinazolin-4-yl}-piperidine-1-carboxylic acid tert-butyl ester | 14 μmol, 6.1 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC=NC2=CC(=CC=C12)OCCCC1=NN=NN1 | C22H29N7O3
reactant | TFA anisole | 100 μL | C(=O)(C(F)(F)F)O.C1(=CC=CC=C1)OC
reactant | (4-isopropoxy-phenyl)-carbamic acid 4-nitro-phenyl ester | 18 μmol, 5.8 mg | [N+](=O)([O-])C1=CC=C(C=C1)OC(NC1=CC=C(C=C1)OC(C)C)=O | C16H16N2O5
solvent | Pyridine | 100 μL | N1=CC=CC=C1 | C5H5N
product | 4-{7-[3-(1H-Tetrazol-5-yl)-propoxy]-quinazolin-4-yl}-piperidine-1-carboxylic acid (4-isopropoxy-phenyl)-amide | 1.0 mg, 14% | C(C)(C)OC1=CC=C(C=C1)NC(=O)N1CCC(CC1)C1=NC=NC2=CC(=CC=C12)OCCCC1=NN=NN1 | C27H32N8O3
